US09403798B2
4-[4-(4-Fluorophenyl)-3,3-bis(hydroxymethyl)piperidin-1-yl]-6-methyl-1-{[5-(trifluoromethyl)thiophen-2-yl]methyl}-1,3,5-triazin-2(1H)-one
To a 1,4-dioxane solution (500 μL) of 4-[11-(4-fluorophenyl)-2,4-dioxa-8-azaspiro[5.5]undecan-8-yl]-6-methyl-1-{[5-(trifluoro methyl)thiophen-2-yl]methyl}-1,3,5-triazin-2(1H)-one (5.00 mg, 9.53 μmol) synthesized in Reference Synthesis Example 363, 12 M hydrochloric acid (500 μL) was added and the resultant mixture was stirred at 110° C. for 2 hours. To the resultant reaction solution, 12 M hydrochloric acid (500 μL) was added and the resultant mixture was stirred at 110° C. for 2.5 hours. After the completion of the reaction, to the reaction solution, saturated sodium carbonate aqueous solution was added and extraction with chloroform from the reaction solution was performed. The organic layer was dried over anhydrous sodium sulfate and was concentrated under reduced pressure and the resultant residue was purified by silica gel column chromatography (ethyl acetate/methanol=1/0→20/1) to obtain the title compound (1.59 mg, yield: 33%).

reactant | 4-[11-(4-fluorophenyl)-2,4-dioxa-8-azaspiro[5.5]undecan-8-yl]-6-methyl-1-{[5-(trifluoro methyl)thiophen-2-yl]methyl}-1,3,5-triazin-2(1H)-one | 9.53 μmol, 5.00 mg | FC1=CC=C(C=C1)C1CCN(CC12COCOC2)C2=NC(N(C(=N2)C)CC=2SC(=CC2)C(F)(F)F)=O | C24H24F4N4O3S
reactant | hydrochloric acid | 12 M, 500 μL | Cl | ClH
reactant | hydrochloric acid | 12 M, 500 μL | Cl | ClH
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,4-dioxane | 500 μL | O1CCOCC1 | C4H8O2
product | 4-[4-(4-Fluorophenyl)-3,3-bis(hydroxymethyl)piperidin-1-yl]-6-methyl-1-{[5-(trifluoromethyl)thiophen-2-yl]methyl}-1,3,5-triazin-2(1H)-one | 1.59 mg, yield: 33% | FC1=CC=C(C=C1)C1C(CN(CC1)C1=NC(N(C(=N1)C)CC=1SC(=CC1)C(F)(F)F)=O)(CO)CO | C23H24F4N4O3S
